US08664220B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-phenyl-isoxazol-5-yl)-ethyl]-amine
Prepared according to the procedure described in Example 1, Step 12, using 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine and 1-(3-phenyl-isoxazol-5-yl)-ethanone.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | 1-(3-phenyl-isoxazol-5-yl)-ethanone | C1(=CC=CC=C1)C1=NOC(=C1)C(C)=O | C11H9NO2
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-phenyl-isoxazol-5-yl)-ethyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C)C1=CC(=NO1)C1=CC=CC=C1 | C21H18BrN3O2
